datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]=[S:11])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])=[S:11],64.852
[C:0]1([H:10])=[C:1]([H:11])[C:2]2[C:3](=[C:4]([H:12])[C:5]3([H:13])[C:6]([H:14])([H:15])[C:7]23[H:16])[C:8]([H:17])=[C:9]1[H:18]>>[c:0]1([H:10])[c:1]([H:11])[c:2]2[c:3]([c:8]([H:17])[c:9]1[H:18])=[C:4]([H:12])[C:5]([C:6]([H:14])[H:15])([H:13])[C:7]=2[H:16],117.2566
[O:0][C:1]1([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]1=[O:7]>>[O:0]1[C:1]2([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]2[O:7]1,242.16992
[N:0][N:1]([H:2])[H:3].[O:4][O:5][H:6]>>[H:2][O:4][O:5][H:6].[N:0]=[N:1][H:3],-6.6944
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]#[C:11][H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:12])([C:10]#[C:11][H:14])[H:13],72.3832
[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])[C:5]1([C:6]([H:13])([H:14])[H:15])[H:12])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:13])[C:5]1([C:6]([H:14])[H:15])[H:12])([H:7])[H:8],203.7608
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:6],59.4965
[C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5]([C:6](=[C:7]([H:11])[H:12])[H:10])([H:8])[H:9].[S:0]=[C:1]([S:2])[H:3],15.8992
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[c:17]1([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]([H:26])[c:21]([H:27])[c:22]1[H:28]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:23])([H:8])([H:9])[H:10].[c:17]1[c:18]([H:24])[c:19]([H:25])[c:20]([H:26])[c:21]([H:27])[c:22]1[H:28],117.512
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[H:12][H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:13])([H:5])([H:6])[H:7].[H:12],122.173
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15]([H:16])([H:17])[H:18])[H:8])[H:7],20.3342
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7](=[C:8]([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:11])[H:4].[C:5](=[C:6][C:7](=[C:8]([H:13])[H:14])[H:12])([H:9])[H:10],89.5376
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([C:6]([H:18])([H:19])[H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],103.177
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([C:15]([H:24])([H:25])[H:26])[O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:17][O:16][C:13]([C:12]([H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26],62.3416
[C:0]([C:1]1=[C:2]([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1[H:18])([H:10])([H:11])[H:12]>>[C:0]([C:1]1=[C:2]([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1([H:10])[H:18])([H:11])[H:12],254.935304
[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[Cl:20]>>[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][Cl:20],2.08943
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]#[C:15][C:16](=[C:17]([H:22])[H:23])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])=[C:15][C:16](=[C:17]([H:22])[H:23])[H:21])[H:5],35.1038
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:16])[H:17])[H:15])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],23.5141
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:4],81.4625
